US07632840B2
N-(3-Chloro-2-fluorophenyl)-6-[(isopropylamino)methyl]-7-methoxyquinazolin-4-amine was coupled with ethyl O-trifluoromethanesulfonyl-D-lactate and hydrolysed using analogous methods to those described for the equivalent steps in Example 46 to give N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-isopropyl-L-alanine; 1H NMR Spectrum: (DMSO-d6) 1.08 (d, 6H); 1.31 (d, 3H); 3.10 (m, 1H); 3.63 (q, 1H); 3.98 (s, 3H); 4.02 (s, 2H); 7.20 (s, 1H); 7.29 (t, 1H); 7.49 (m, 1H); 7.59 (m, 1H); 8.42 (s, 2H); 9.68 (brs, 1H); Mass Spectrum: (M+H)+ 447.

reactant | N-(3-Chloro-2-fluorophenyl)-6-[(isopropylamino)methyl]-7-methoxyquinazolin-4-amine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC(C)C)OC)F | C19H20ClFN4O
reactant | ethyl O-trifluoromethanesulfonyl-D-lactate | CCOC(=O)[C@@H](C)OS(=O)(=O)C(F)(F)F | C6H9F3O5S
product | N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-isopropyl-L-alanine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN([C@@H](C)C(=O)O)C(C)C)OC)F | C22H24ClFN4O3
